US08957068B2
To a mixture of 4-(difluoromethyl)-2-fluorobenzaldehyde (162 mg, 0.930 mmol) and (R)-2-methylpropane-2-sulfinamide (124 mg, 1.023 mmol) in DCE (3 mL) was added copper sulfate (223 mg, 1.396 mmol). Reaction mixture was heated in a preheated oil bath to 55° C. for 38 hours. The mixture was allowed to cool to room temperature, filtered through a pad of celites and washed with DCE. Combined filtrates were concentrated under reduced pressure to afford (R,E)-N-(4-(difluoromethyl)-2-fluorobenzylidene)-2-methylpropane-2-sulfinamide (266 mg) as a yellow oil, which was used without further purification. LCMS m/z 278.1 (M+H)+, Rt 0.98 min.

reactant | 4-(difluoromethyl)-2-fluorobenzaldehyde | 0.930 mmol, 162 mg | FC(C1=CC(=C(C=O)C=C1)F)F | C8H5F3O
reactant | (R)-2-methylpropane-2-sulfinamide | 1.023 mmol, 124 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
catalyst | copper sulfate | 1.396 mmol, 223 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | (R,E)-N-(4-(difluoromethyl)-2-fluorobenzylidene)-2-methylpropane-2-sulfinamide | 266 mg | FC(C1=CC(=C(\C=N\[S@](=O)C(C)(C)C)C=C1)F)F | C12H14F3NOS
